US07700594B2
3-(1-Bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutanone
3-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutanone (47.7 g, 215 mmol) was dissolved in DMF (200 mL) under an atmosphere of nitrogen and cooled to −4° C. N-bromosuccinimide (40.3 g, 226 mmol) was dissolved in DMF (140 mL) and slowly added to the reaction mixture. After 5 min, water (400 mL) was added and the resulting solid isolated by filtration and washed with solid with water to give the title compound. 1H NMR (DMSO-d6, 400 MHz): δ 3.45-3.53 (m, 2H), 3.58-3.67 (m, 2H), 4.08-4.16 (m, 1H), 7.45 (d, 1H, J=5.2 Hz) and 8.30 (d, 1H, J=4.8 Hz).

reactant | 3-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutanone | 215 mmol, 47.7 g | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)=O | C10H8ClN3O
reactant | N-bromosuccinimide | 226 mmol, 40.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 400 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
product | 3-(1-Bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutanone | BrC=1N=C(N2C1C(=NC=C2)Cl)C2CC(C2)=O | C10H7BrClN3O
